US07148249B2
6-fluoro-2-indolinone
119 g 4-fluoro-2-nitrophenylacetic acid are hydrogenated in 600 ml acetic acid with the addition of 20 g palladium on activated charcoal (10%) under 50 psi of hydrogen pressure. The catalyst is suction filtered, the solvent distilled off. The crude product is stirred with 500 ml petroleum ether, suction filtered, washed with water and dried.

reactant | 4-fluoro-2-nitrophenylacetic acid | 119 g | FC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6FNO4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated charcoal | 20 g | [Pd] | Pd
product | 6-fluoro-2-indolinone | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
